US08466167B2
To a solution of N-(4-((5-chloro-6-cyanopyridin-3-yl)ethynyl)phenyl)acetamide (from the previous step) in ethyl acetate/methanol (1:4, 0.05 M) was added 10% wt palladium on carbon (0.2 eq.). Hydrogen gas was introduced via a balloon, and the reaction was stirred for 3 hours. The mixture was filtered through a pad of celite, washing with dichloromethane. The filtrate was concentrated en vaccuo and purified by a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give N-(4-(2-(5-chloro-6-cyanopyridin-3-yl)ethyl)phenyl)acetamide.

reactant | N-(4-((5-chloro-6-cyanopyridin-3-yl)ethynyl)phenyl)acetamide | ClC=1C=C(C=NC1C#N)C#CC1=CC=C(C=C1)NC(C)=O | C16H10ClN3O
reactant | Hydrogen | [H][H] | H2
solvent | ethyl acetate methanol | 0.05 M | C(C)(=O)OCC.CO
catalyst | palladium on carbon | 0.2 eq. | [Pd] | Pd
product | N-(4-(2-(5-chloro-6-cyanopyridin-3-yl)ethyl)phenyl)acetamide | ClC=1C=C(C=NC1C#N)CCC1=CC=C(C=C1)NC(C)=O | C16H14ClN3O
